US06132860
Acryloyl chloride (9 grams), methyl(α-hydroxyethyl)-cyclopentadienyltricarbonylmanganese (13.1 grams), and triethylamine (10.1 grams) were dissolved in 200 ml dichloromethane under a nitrogen atmosphere. A 0.1 gram sample of N,N-dimethylaminopyridine (DMAP) was added as a catalyst. For 4 days the solution was stirred and protected from light while and a white precipitate slowly formed. The reaction mixture was extracted twice with dilute HCl and the dichloromethane phase was dried with magnesium sulfate. The magnesium sulfate was removed by filtration and the dichloromethane solution was filtered through silica gel to remove a colored impurity. The solution was then rotary evaporated to a yellowish oil that was vacuum dried to give 16.2g (97%) of methyl(α-acryloylethyl)cyclopentadienyl-tricarbonylmanganese as a mixture of 1,2 and 1,3 isomers.

reactant | Acryloyl chloride | 9 grams | C(C=C)(=O)Cl | C3H3ClO
reactant | methyl(α-hydroxyethyl)-cyclopentadienyltricarbonylmanganese | 13.1 grams | C[Mn](=C=O)(=C=O)(=C=O)(C1C=CC=C1)C(C)O
reactant | triethylamine | 10.1 grams | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | methyl(α-acryloylethyl)cyclopentadienyl-tricarbonylmanganese | 16.2g, 97% | C[Mn](=C=O)(=C=O)(=C=O)(C1C=CC=C1)C(C)C(C=C)=O | InChI=1S/C5H7O.C5H5.3CO.CH3.Mn/c1-3-5(6)4-2;1-2-4-5-3-1;3*1-2;;/h3-4H,1H2,2H3;1-5H;;;;1H3;
